US08236984B2
Palladium on carbon (10% by mass of 10% by wt Pd, 50 mg) was cautiously added to a deoxygenated stirring solution of methyl 2-(4-(benzyloxy)-3,5-dichlorophenylamino)benzoate (0.520 g, 1.3 mmol) in THF (15 mL). The mixture was subjected to three cycles of evacuation and purging with hydrogen gas, before being stirred under an atmosphere of hydrogen gas. After 3 h, the reaction was purged with nitrogen, filtered through Celite™ (eluent: THF) and concentrated in vacuo to afford methyl 2-(3,5-dichloro-4-hydroxyphenylamino)benzoate as a white solid that was used without further purification.

reactant | methyl 2-(4-(benzyloxy)-3,5-dichlorophenylamino)benzoate | 1.3 mmol, 0.520 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1Cl)NC1=C(C(=O)OC)C=CC=C1)Cl | C21H17Cl2NO3
catalyst | Palladium on carbon | 50 mg | [Pd] | Pd
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | methyl 2-(3,5-dichloro-4-hydroxyphenylamino)benzoate | ClC=1C=C(C=C(C1O)Cl)NC1=C(C(=O)OC)C=CC=C1 | C14H11Cl2NO3
